US06479487B1
1-Butyl-4-piperidone oxime is prepared from 1-butyl-4-piperidone and hydroxylamine hydrochloride essentially as described above in Example 38, Scheme C, step b.

reactant | 1-butyl-4-piperidone | C(CCC)N1CCC(CC1)=O | C9H17NO
reactant | hydroxylamine hydrochloride | Cl.NO
product | 1-Butyl-4-piperidone oxime | C(CCC)N1CCC(CC1)=NO | C9H18N2O
